US05175164
A mixture of 2-cyanobenzoic acid (2 g, 13.6 mmol) and 15 ml of thionyl chloride was refluxed overnight. Excess thionyl chloride was removed in vacuo and the resultant 2-cyanobenzoyl chloride obtained as such as an off white solid was used in the above acylation.

reactant | 2-cyanobenzoic acid | 13.6 mmol, 2 g | C(#N)C1=C(C(=O)O)C=CC=C1 | C8H5NO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-cyanobenzoyl chloride | C(#N)C1=C(C(=O)Cl)C=CC=C1 | C8H4ClNO
